US06982274B2
3-(3-Fluoro-phenyl)-4-methoxy-1-trityl-1H-indazol-5-ylamine
A total of 810 mg of 5-bromo-3-(3-fluoro-phenyl)-4-methoxy-1-trityl-1H-indazole obtained in Production Example II-18-a was dissolved in 7.2 ml of toluene, 194 mg of sodium t-butoxide, 0.29 ml of benzophenoneimine, 135 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and 74.5 mg of tris(dibenzylideneacetone)bispalladium were added, and the mixture was stirred at 80° C. in an atmosphere of nitrogen gas for 8 hours. The reaction mixture was cooled to room temperature, and diethyl ether was added. The mixture was filtrated through Celite, and the filtrate was evaporated. The resulting residue was dissolved in 7.2 ml of tetrahydrofuran and 0.36 ml of 2 N hydrochloric acid was added, followed by stirring at room temperature for 3 hours. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture and the mixture was extracted with diethyl ether, The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:3), to give 426 mg of the title compound as reddish brown crystals.

reactant | 5-bromo-3-(3-fluoro-phenyl)-4-methoxy-1-trityl-1H-indazole | 810 mg | BrC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)OC | C33H24BrFN2O
reactant | sodium t-butoxide | 194 mg | CC(C)([O-])C.[Na+]
reactant | benzophenoneimine | 0.29 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 135 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 7.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3-Fluoro-phenyl)-4-methoxy-1-trityl-1H-indazol-5-ylamine | 426 mg | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C(=C12)OC)N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26FN3O
